US08217177B2
To a flask charged with 6-(difluoro(8-fluoro-6-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methyl)quinolin-3-ol (17.3 mg, 42 μmol), was added triphenylphosphine (55 mg, 211 μmol), THF (1 mL), and 4-(3-hydroxypropyl)-morpholine, 95% (31 μl, 211 μmol). The mixture was placed under N2 and cooled to 0° C. Di-tert-butyl azodicarboxylate (49 mg, 211 μmol) was added as a solid in a single portion and the solution was allowed to warm to rt and was maintained for 48 h. The solution was concentrated for purification by MPLC (Teledine Isco combiFlash Companion). The crude residue was taken up in minimal CH2Cl2 and absorbed onto a 5 g loading cartridge and passed through a Redi-Sep® pre-packed silica gel column (40 g) using 99:1 CH2Cl2:MeOH to 90:10 CH2Cl2:MeOH gradient to afford 6-(difluoro(8-fluoro-6-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methyl)-3-(3-morpholinopropoxy)quinoline (7.5 mg, 33% yield) as a colorless solid.; LRMS (ESI) m/z calcd for C27H27F3N7O2 (M+H) 538.2. found 538.2.

reactant | 6-(difluoro(8-fluoro-6-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methyl)quinolin-3-ol | 42 μmol, 17.3 mg | FC(C=1C=C2C=C(C=NC2=CC1)O)(C1=NN=C2N1C=C(C=C2F)C=2C=NN(C2)C)F | C20H13F3N6O
reactant | triphenylphosphine | 211 μmol, 55 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(3-hydroxypropyl)-morpholine | OCCCN1CCOCC1 | C7H15NO2
reactant | Di-tert-butyl azodicarboxylate | 211 μmol, 49 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 6-(difluoro(8-fluoro-6-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methyl)-3-(3-morpholinopropoxy)quinoline | 7.5 mg, 33% yield | FC(C=1C=C2C=C(C=NC2=CC1)OCCCN1CCOCC1)(C1=NN=C2N1C=C(C=C2F)C=2C=NN(C2)C)F | C27H26F3N7O2
